US07642220B2
9. Preparation of 6-Amino-2-chloro-5-methoxypyrimidine-4-carboxylic acid methyl ester
2,6-Dichloro-5-methoxypyrimidine-4-carboxylic acid methyl ester (750 mg, 3.16 mmol; see J. Med. Chem. 49(5), 1693-1705; 2006 for preparation) was dissolved in chloroform and 2N ammonia in methanol (2 eq) was added dropwise while in a cooling bath. The reaction mixture was stirred for 30 min, after which an additional 2 eq of 2N ammonia in methanol was added. The reaction was stirred at ambient temperature for 16 h. Additional 2N ammonia in methanol (2 eq) was added. The reaction was stirred for 2 h during which time a solid precipitated. The solid was filtered off and water was added to the filtrate. The crude material was extracted from the filtrate with dichloromethane three times and the combined organic phases were washed with brine, dried and concentrated under vacuum. The product was purified by flash chromatography on silica gel (hexane/ethyl acetate gradient) to provide the title compound (202 mg, 29% yield): mp 162-167° C.; 1HNMR (CDCl3): δ 5.75 (br s, 2H), 3.97 (s, 3H), 3.92 (s, 3H).

reactant | 2,6-Dichloro-5-methoxypyrimidine-4-carboxylic acid methyl ester | 3.16 mmol, 750 mg | COC(=O)C1=NC(=NC(=C1OC)Cl)Cl | C7H6Cl2N2O3
reactant | ammonia | 2N | N | H3N
reactant | ammonia | 2N, 2 eq | N | H3N
reactant | ammonia | 2N | N | H3N
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | methanol | CO | CH4O
solvent | methanol | 2 eq | CO | CH4O
solvent | methanol | 2 eq | CO | CH4O
product | 6-Amino-2-chloro-5-methoxypyrimidine-4-carboxylic acid methyl ester | 202 mg, 29% yield | COC(=O)C1=NC(=NC(=C1OC)N)Cl | C7H8ClN3O3
